US09302996B2
N,N-dimethylformamide (5 mL) was added to 2-(4-bromo-2-fluorophenyl)-4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole (293 mg), ethyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}methyl)-cyclobutanecarboxylate (250 mg) and palladium chloride (dppf) methylene chloride complex (28 mg), and after adding 2N aqueous sodium carbonate solution (1 mL) to the mixture, the atmosphere was replaced with nitrogen and the mixture was stirred at 65° C. for 3 hours. To the reaction mixture were added ethyl acetate and water to extract the objective compound. The organic layer was washed with a saturated brine, and dried over anhydrous magnesium sulfate. After concentrating the mixture under reduced pressure, the obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0 to 80:20) to obtain ethyl 1-{[(5-{3-fluoro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclobutanecarboxylate (316 mg).

reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | 2-(4-bromo-2-fluorophenyl)-4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole | 293 mg | BrC1=CC(=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)F | C16H19BrF4N2OSi
reactant | ethyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}methyl)-cyclobutanecarboxylate | 250 mg | CC1=CC(=NC=C1B1OC(C(O1)(C)C)(C)C)OCC1(CCC1)C(=O)OCC | C20H30BNO5
reactant | sodium carbonate | 2N, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-{[(5-{3-fluoro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclobutanecarboxylate | 316 mg | FC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC1(CCC1)C(=O)OCC)C | C30H37F4N3O4Si
